US07294635B2
To a solution of 2-isopropyl-6-methyl-phenylamine (1 ml, 6.4 mmol) in 6.5 mL acetic acid, was added bromine (0.33 ml, 6.4 mmol) dropwise over 10 minutes at room temperature. The mixture was stirred at room temperature under argon for 20 minutes. A precipitate was formed and collected by filtration and washed with ether to give pure 4-bromo-2-isopropyl-6-methyl-phenyl amine.

reactant | 2-isopropyl-6-methyl-phenylamine | 6.4 mmol, 1 ml | C(C)(C)C1=C(C(=CC=C1)C)N | C10H15N
reactant | bromine | 6.4 mmol, 0.33 ml | BrBr | Br2
solvent | acetic acid | 6.5 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-2-isopropyl-6-methyl-phenyl amine | BrC1=CC(=C(C(=C1)C)N)C(C)C | C10H14BrN
